US04061761
4-(4-Chloro-3-sulfamoylphenyl)-3-methyl-2-(2-pyridylmethylimino)-1,3-thiazolidine-4-ol-hydrochloride
5.2 g of 2,4'-dichloro-3'-sulfamoylacetophenone and 3.5 g of 1-methyl-3-(2-pyridylmethyl)-thiourea were reacted as prescribed in Example 12 and the end product was precipitated with 400 ml of ethyl acetate while stirring. Colorless crystals, melting point 152° C (decomposition) γC=N 1620 cm-1.

reactant | 2,4'-dichloro-3'-sulfamoylacetophenone | 5.2 g | ClCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7Cl2NO3S
reactant | 1-methyl-3-(2-pyridylmethyl)-thiourea | 3.5 g | CNC(=S)NCC1=NC=CC=C1 | C8H11N3S
product | 4-(4-Chloro-3-sulfamoylphenyl)-3-methyl-2-(2-pyridylmethylimino)-1,3-thiazolidine-4-ol-hydrochloride | Cl.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NCC1=NC=CC=C1)C)O)S(N)(=O)=O | InChI=1S/C16H17ClN4O3S2.ClH/c1-21-15(20-9-12-4-2-3-7-19-12)25-10-16(21,22)11-5-6-13(17)14(8-11)26(18,23)24;/h2-8,22H,9-10H2,1H3,(H2,18,23,24);1H
